US04326069
N-(3'-Diethylaminopropyl)-aspartic acid-4-methyl ester
71.5 g (0.5 mol+10% excess) of maleic acid-monomethyl ester are reacted, in the manner described in Example 1, with 100 ml of triethylamine and 65.1 g (0.5 mol) of 3-diethylaminopropylamine. The reaction product is mixed with 500 ml of ether, the mixture is filtered and the residue is washed with ether. After drying at 60° C. in vacuo, the crude product is recrystallised in acetone to yield 69.44 g (53.4% of theory) of a white crystalline aspartic acid derivative, the melting point of which is 154.5°-156.5° C.

reactant | maleic acid-monomethyl ester | 0.5 mol, 71.5 g | COC(\C=C/C(=O)O)=O | C5H6O4
reactant | triethylamine | 100 ml | C(C)N(CC)CC | C6H15N
reactant | 3-diethylaminopropylamine | 0.5 mol, 65.1 g | C(C)N(CCCN)CC | C7H18N2
solvent | ether | 500 ml | CCOCC | C4H10O
product | N-(3'-Diethylaminopropyl)-aspartic acid-4-methyl ester | 69.44 g, 53.4% | COC(C[C@H](NCCCN(CC)CC)C(=O)O)=O | C12H24N2O4
